US08748614B2
1: (4-Bromo-benzyl)-(2,2-dimethoxy-ethyl)-amine
50 g (270.2 mmol) 4-bromobenzaldehyde were dissolved in 200 ml of toluene and 28.4 g (270.2 mmol) aminoacetaldehyde dimethylacetal were added. After the addition of 5.1 g (27.0 mmol) p-toluenesulfonic acid monohydrate, the reaction mixture was heated under reflux in a Dean Stark apparatus. After 4 h, the reaction was cooled to room temperature and washed with saturated sodium hydrogen carbonate-solution (2×) and water. The combined aqueous layers were extracted with Toluene and the combined organic layers were dried over magnesium sulfate and evaporated. The residue was dissolved in 200 ml of ethanol and 5.11 g (135.1 mmol) of sodium borohydride were added in small portions. After stirring for 2 h at room temperature and standing overnight, 5.0 ml acetic acid were added and the solvent was removed i. vac. The residue was taken up in dichloromethane and washed (2×) with water. After drying over magnesium sulfate and evaporation, 60.5 g of the title compound were obtained (crude product), which were used without further purification. Rt=0.80 min (Method C). Detected mass: 274.1/276.1 (M+H+).

reactant | 4-bromobenzaldehyde | 270.2 mmol, 50 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | aminoacetaldehyde dimethylacetal | 270.2 mmol, 28.4 g | COC(CN)OC | C4H11NO2
reactant | p-toluenesulfonic acid monohydrate | 27.0 mmol, 5.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 135.1 mmol, 5.11 g | [BH4-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | (4-Bromo-benzyl)-(2,2-dimethoxy-ethyl)-amine | 60.5 g | BrC1=CC=C(CNCC(OC)OC)C=C1 | C11H16BrNO2
